US03943125
To a solution of 2,6-diamino-3,5-dinitropyridine (25.0 g, 0.125 mole) and 225 ml dimethylsulfoxide in a 500 ml Parr bottle was added a solution of methylamine (20 g, 0.65 mole) in 75 ml N,N-dimethylacetamide (DMAc). The reaction was shaken for 4 hours at ambient temperatures and then heated 20 hours at 70°C. Upon cooling, the heterogeneous mixture was diluted with 100 ml methanol, filtered, washed with 200 ml DMAc-methanol (lv/lv), twice with methanol and dried. 2,6-Di(methylamino)-3,5-dinitropyridine, m.p. 323°-325°C (dec.) was obtained as a golden yellow solid (25.0 g, 93% yield). This product, unlike 2,6-diamino-3,5-dinitropyridine, is essentially insoluble in dimethylsulfoxide and 85% H3PO4. Anal. Calcd. for C7H9N5O4 : C, 37.0; H, 4.0; N, 30.8. Found: C, 37.2; H, 3.8; N, 31.0.

reactant | 2,6-diamino-3,5-dinitropyridine | 0.125 mole, 25.0 g | NC1=NC(=C(C=C1[N+](=O)[O-])[N+](=O)[O-])N | C5H5N5O4
reactant | dimethylsulfoxide | 225 ml | CS(=O)C | C2H6OS
reactant | methylamine | 0.65 mole, 20 g | CN | CH5N
solvent | N,N-dimethylacetamide | 75 ml | CN(C(C)=O)C | C4H9NO
solvent | methanol | 100 ml | CO | CH4O
product | 2,6-Di(methylamino)-3,5-dinitropyridine | CNC1=NC(=C(C=C1[N+](=O)[O-])[N+](=O)[O-])NC | C7H9N5O4
